series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
R1 in a 994.435195
R2 a b 2037.698941
R3 a b 2943.662117
C4 b 0 8.56e-06
.op
.control
run
print v(a) v(b) v(in)
print @r1[i] @r2[i] @r3[i]
.endc
.end
